US07544812B2
2-Hydroxy-3-(4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester:
3-(4-Benzyloxy-phenyl)-2-hydroxy-2-methyl-propionic acid ethyl ester (5.9 g, 18.77 mmol) is dissolved in ethanol (375 mL), treated with 10% palladium on carbon (2.95 g), and stirred under an atmosphere of hydrogen for 2 h. The suspension is filtered and concentrated to provide the title compound. 1H NMR (400 MHz, CDCl3): δ 7.00 (d, 2H, J=8.3 Hz), 6.69 (d, 2H, J=8.3 Hz), 4.18-4.13 (m, 2H), 2.99, 2.83 (ABq, 2H, J=13.7 Hz), 1.47 (s, 3H), 1.24 (t, 3H, J=7.34 Hz). Rf=0.58 in 50% acetone in hexanes.

reactant | 3-(4-Benzyloxy-phenyl)-2-hydroxy-2-methyl-propionic acid ethyl ester | 18.77 mmol, 5.9 g | C(C)OC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)(C)O)=O | C19H22O4
solvent | ethanol | 375 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 2.95 g | [Pd] | Pd
product | 2-Hydroxy-3-(4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(C)O)=O | C12H16O4
